US04800201
(ii) Preparation of 5-methyl-6-(3-acetyl-4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
A mixture of 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-acetyl-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one (1.77 g) and sulfur sublimed (0.8 g) was treated in the same manner as described in Example 3 (ii) to give the titled compound (0.08 g, yield 7.8%) as pale yellow crystals. Ethyl acetate was used as a developing eluant.

reactant | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-acetyl-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 1.77 g | CC=1NC(CSC1C1C(=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl)C(C)=O)=O | C15H15Cl3N2O4S
reactant | sulfur | 0.8 g | [S] | S
product | 5-methyl-6-(3-acetyl-4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.08 g, yield 7.8% | CC=1NC(CSC1C1=C(C=NC=C1)C(C)=O)=O | C12H12N2O2S
